### PR TITLE
[Merged by Bors] - feat(Tactic): `#click_suggestions`

### PR DESCRIPTION
**Pull request by JovanGerb**
This is an initial PR for a point&click suggestion tool that can suggest theorems and tactics. This PR only implements theorem suggestions.

This PR adds the `#click_suggestions` command that activates the tool. It could potentially in the future be active by default.

The code is ported from this repository: https://github.com/JovanGerb/infoview_search

A future PR will import this feature in Tactic.Common. We'll have to see if the imports can be minimized for that.

This PR deletes `unfold?` in favour of the `#click_suggestions`. For backwards compatability, I have left `rw??` in place, but I plan to deprecate it in the future.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/ClickSuggestions/Util.lean [hunk 1]
```diff
@@ -0,0 +1,381 @@
...
+  | .const name | .fvar ⟨name⟩ => name.toString
+
+def length (premise : Premise) : Nat :=
+  premise.toString.length
+
+def getType : Premise → MetaM Expr
+  | .const name => (·.type) <$> getConstInfo name
+  | .fvar fvarId => fvarId.getType
+
+def forallMetaTelescopeReducing : Premise → MetaM (Expr × Array Expr × Array BinderInfo × Expr)
```
Comment (fpvandoorn) [inline Mathlib/Tactic/ClickSuggestions/Util.lean:116]: Does it make sense to also define `Premise.toExpr`? Using `Premise.toExpr` and `Premise.getType` (which maybe also should instantiate mvars), can you then define this without case splitting?

File: Mathlib/Tactic/ClickSuggestions/Util.lean [hunk 2]
```diff
@@ -0,0 +1,381 @@
...
+  | `(tactic| grw [$[$rules₁],*] $[at $h₁:ident]?),
+    `(tactic| grw [$[$rules₂],*] $[at $h₂:ident]?) =>
+    if h₁.map (·.getId) == h₂.map (·.getId) then
+      return ← `(tactic| grw [$[$(rules₁ ++ rules₂)],*] $[at $h₁:ident]?)
+  | _, _ => pure ()
+  return none
+
+/-- Given tactic syntax `tac` that we want to paste into the editor, return it as a string.
+This function respects the 100 character limit for long lines. -/
+def tacticPasteString (tac : TSyntax `tactic) : clickSuggestionsM String := do
```
Comment (fpvandoorn) [inline Mathlib/Tactic/ClickSuggestions/Util.lean]: Is this only performing the correct logic if my cursor is in the spot where the next tactic is expected? I don't think you can generally assume that. If there is no other way to determine where to insert the next tactic, you should instruct the user where they should put the cursor.

File: Mathlib/Tactic/ClickSuggestions/Util.lean [hunk 3]
```diff
@@ -0,0 +1,381 @@
...
+  mkRefreshComponentM (.text "") fun token ↦ trackingComputation name do
+    let htmls ← IO.mkRef #[]
+    k fun html ↦ do
+      markProgress
+      htmls.modify (·.push html)
+      token.update (.element "div" #[] (← htmls.get))
+
+end Widget
+
+def kabstractFindsPositions (e p : Expr) (targetPos : SubExpr.Pos) : MetaM Bool := do
```
Comment (fpvandoorn) [inline Mathlib/Tactic/ClickSuggestions/Util.lean:390]: Is this similar to a subfunction of `kabstract` or `nth_rw`? If so, which function and what are the differences? Please document. (EDIT: oh, this function does something different than I thought, so I expect the answer will be "no". Still, add a docstring.

File: Mathlib/Tactic/ClickSuggestions/SectionState.lean [hunk 4]
```diff
@@ -0,0 +1,152 @@
...
+  let { results, errors } := s
+  let results ← fun c₁ c₂ c₃ c₄ ↦
+    (res.insertInArray results isDup c₁ c₂ c₃ c₄).catchExceptions fun ex ↦ do
+    if let .internal id _ := ex then
+      if id == interruptExceptionId then
+        return default
+    panic! s!"an error occurred when checking for duplicate entries:\n{← ex.toMessageData.toString}"
+  return { results, errors }
+
+def SectionState.pushError (s : SectionState α) (error : Html) : SectionState α :=
```
Comment (fpvandoorn) [inline Mathlib/Tactic/ClickSuggestions/SectionState.lean]: Is this just `{ s with errors := errors.push error }`?

File: Mathlib/Tactic/ClickSuggestions/SectionState.lean [hunk 5]
```diff
@@ -0,0 +1,152 @@
...
+    the first thing we do is check if it has been cancelled already. -/
+    Core.checkInterrupted
+    /- Each thread counts its own number of heartbeats, so it is important
+    to use `withCurrHeartbeats` to avoid stray maxHeartbeats errors. -/
+    withCurrHeartbeats do
+      try
+        return .ok (some (← k))
+      catch ex =>
+        /- By default, we catch the errors from failed lemma applications
+        (appart from runtime exceptions, i.e. max heartbeats or max recursion depth,
```
Comment (fpvandoorn) [inline Mathlib/Tactic/ClickSuggestions/SectionState.lean]:
```suggestion
        (apart from runtime exceptions, i.e. max heartbeats or max recursion depth,
```

**Review by fpvandoorn — COMMENTED** [review]
Still have to review GRewrite and Rewrite, but this is looking good!

File: Mathlib/Tactic/ClickSuggestions/Util.lean [hunk 6]
```diff
@@ -0,0 +1,381 @@
...
+        visit t pos.pushLetVarType; visit v pos.pushLetValue; visit b pos.pushLetBody
+      | .lam _ d b _     => visit d pos.pushBindingDomain; visit b pos.pushBindingBody
+      | .forallE _ d b _ => visit d pos.pushBindingDomain; visit b pos.pushBindingBody
+      | _                => pure ()
+    if e.hasLooseBVars then
+      visitChildren
+    else if e.toHeadIndex != pHeadIdx || e.headNumArgs != pNumArgs then
+      visitChildren
+    else
+      if ← isDefEq e p then
```
Comment (fpvandoorn) [inline Mathlib/Tactic/ClickSuggestions/Util.lean:411]: Does `isDefEq` work in the presence of bvars? EDIT: oh, never mind, you don't do isDefEq if there are bvars. Makes sense.

File: Mathlib/Tactic/ClickSuggestions/Util.lean [hunk 7]
```diff
@@ -0,0 +1,381 @@
...
+  let e ← instantiateMVars e
+  let pHeadIdx := p.toHeadIndex
+  let pNumArgs := p.headNumArgs
+  let rec
+  /-- The main loop that loops through all subexpressions -/
+  visit (e : Expr) (pos : SubExpr.Pos) :
+      ExceptT Bool MetaM Unit := do
+    let visitChildren (found := false) : ExceptT Bool MetaM Unit := do
+      if pos == targetPos then
+        throwThe _ found
```
Comment (fpvandoorn) [inline Mathlib/Tactic/ClickSuggestions/Util.lean]: Am I correct that this will early return `visit` before it visited all subexpressions of `e`? Is that desirable?

File: Mathlib/Tactic/ClickSuggestions/Util.lean (hunk 2 above)
Comment (JovanGerb) [reply Mathlib/Tactic/ClickSuggestions/Util.lean]: Yes, I had made an attempt to have a smart algorithm that knows where the next tactic is expected. But this had some bugs, so for now I'm sticking to the basic logic that the tactic is inserted where the cursor is currently.

File: Mathlib/Tactic/ClickSuggestions/GRewrite.lean [hunk 8]
```diff
@@ -0,0 +1,232 @@
...
+    replacementSize := (← ppExpr replacement).pretty.length
+    name := lem.name.toString
+    replacement := ← abstractMVars replacement
+  }
+  let tactic ← tacticSyntax lem i proof justLemmaName
+  let mut htmls := #[← exprToHtml replacement]
+  for goal in extraGoals do
+    -- TODO: think more carefully about which goals should be displayed
+    -- Are there lemmas where a hypothesis is marked as implicit,
+    -- which we would still want to show as a new goal?
```
Comment (fpvandoorn) [inline Mathlib/Tactic/ClickSuggestions/GRewrite.lean]: is this still relevant?

**Review by fpvandoorn — COMMENTED** [review]
Potentially add as future TODOs:
* In `ApplyAt` you only try to match hypotheses with the last argument of a lemma. I think it would be useful for forward reasoning to also consider other hypotheses (then it can maybe suggest a `replace h := myLemma h ?_` tactic)?

File: Mathlib/Tactic/ClickSuggestions/SectionState.lean (hunk 4 above)
Comment (JovanGerb) [reply Mathlib/Tactic/ClickSuggestions/SectionState.lean]: Yes, I'll simply inline the function.

File: Mathlib/Tactic/ClickSuggestions/GRewrite.lean (hunk 8 above)
Comment (JovanGerb) [reply Mathlib/Tactic/ClickSuggestions/GRewrite.lean]: Thanks, I forgot to delete this comment

File: Mathlib/Tactic/ClickSuggestions/Util.lean (hunk 1 above)
Comment (JovanGerb) [reply Mathlib/Tactic/ClickSuggestions/Util.lean:116]: I think this would not quite work, because I need to use `mkConstWithFreshMVarLevels` for constants. And I would not expect a function called `Premise.toExpr` to create new (universe) metavariables.

**Comment by JovanGerb** [comment]
Something to note:
The `apply`/`apply at`/`grw` discrimination trees currently are not restricted to theorems. (You should try to see what happens if you select the `Nat` in a free variable `n : Nat` in the goal. There are very very many things that can be 'applied at `n`'). If we filtered out defs using `wasOriginallyTheorem`, we could save a small amount of time. But I can imagine that it could be useful to have `apply` suggestions for non-Prop goals.

**Review by fpvandoorn — COMMENTED** [review]
1. Bug:
```lean
example (f : ℕ → ℕ) : ∏ i < 0, f i = 0 := by
  rw [IsMin.finsetIio_eq]
```
On the next line, shift-click `IsMin 0` in the second goal and accept the first suggestion. The result is the failing code
```lean
on_goal 2 => rw [IsMin.finsetIio_eq, isMin_iff_eq_bot]
```
2. Less important, if the last `rw` is inside an `on_goal`, then it doesn't merge, even when that would be possible. Example: after accepting the first result when clicking on `0 = ⊥` in the following example:
```lean
example (f : ℕ → ℕ) : ∏ i < 0, f i = 0 := by
  rw [IsMin.finsetIio_eq]
  on_goal 2 => rw [isMin_iff_eq_bot]
```
3. Observation: clicking on the goal `0 = ⊥` doesn't suggest `Nat.bot_eq_zero`, because it's the symmetric version. Maybe custom logic would be nice for symmetric versions?
4. Observation: clicking on the `⊥` in the goal `0 = ⊥` the suggestion `Nat.bot_eq_zero` claims that it rewrites `⊥` to `0`. In fact, it closes the goal. I wonder if it should give the "Goals accomplished" message as its label (instead of the resulting term)
5. Observation: sometimes a header is empty until you turn off the filter (example: click `0 = ⊥` then the bottom suggestion `apply: (fun x => b) a = b'`). This is confusing, but I don't have a good solution.
6. Observation: Very often, one pattern is in `ℕ`, and the next pattern is in a general type `α`. E.g. when you have addition, you get the pattern `n + m` in `ℕ` and a pattern `a + b` in a variable type `G` with an additive type-class. This is a little confusing. I'm wondering if there is a better approach. We definitely don't want to turn off the notation printing and turn on implicit argument printing. What is maybe possible is to print `n + m (in ℕ)` and `a + b (in G)`. In more complicated cases, I can imagine you get patterns like `(n, m) (in ℕ, ℕ)` and `(x, y) (in α, β)`.
7. Perhaps, when suggesting rewrites, that can be the only time that you look at other terms I have selected, and adapt the syntax based on that (if I selected multiple occurrences that are the same, suggest `nth_rw i j ...`; if I selected all of them, suggest `rw ...`) (ignore any other term I have suggested). 
8. The fact that the goal doesn't update after clicking on a suggestion that merges with a previous rewrite is a major pain, so hopefully something can be fixed there.
9. Maybe it would be nice to move the `Goals accomplished` lemmas to the top / be more prominent.
10. If I put my cursor at the *start* of a line that has a `rw` on it (and the previous line also has a `rw`, then the suggestion gets merged with the current line, not the previous line.
11. Sometimes merging `rw` is not valid: if the previous `rw` closed the goal, and you're now working on a side condition. Example: the following rewrites cannot be merged, but `#click_suggestions` does try to merge them.
```lean
example {p q : Prop} {a b : ℕ} (h : p = q) (h2 : p → a = b) : a = b := by
  rw [h2]
  rw [h]
```

Of course, all of these points could easily wait until future PRs (and for the new feature requests that would be better). 

Overall, it is working really well! I managed to prove this (almost) just by clicking, after writing down the initial induction:
```lean
def F : ℕ → ℕ := fun n ↦ 2 ^ 2 ^ n + 1

lemma prod_fermat (n : ℕ) : ∏ i < n, F i = F n - 2 := by {
  induction n with
  | zero => 
    rw [IsMin.finsetIio_eq, Finset.prod_empty, show F 0 = 3 from rfl]
    rw [show 3 - 2 = 1 from rfl]
    rw [isMin_iff_eq_bot, Nat.bot_eq_zero]
  | succ n ih =>
  rw [Nat.Iio_eq_range, Finset.prod_range_succ, ← Nat.Iio_eq_range, ih,
    show F (n + 1) = 2 ^ 2 ^ (n + 1) + 1 from rfl]
  rw [show F n = 2 ^ 2 ^ n + 1 from rfl, Nat.pow_add_one, Nat.pow_mul, ← Nat.sub_sub_right]
  on_goal 2 => exact NeZero.one_le
  rw [show 2 - 1 = 1 from rfl, tsub_one_mul, Nat.mul_add_one, ← Nat.pow_two, ←
    tsub_tsub_eq_add_tsub_of_le]
  on_goal 2 => apply Nat.le_add_right
  rw [Nat.add_sub_self_left, ← Nat.sub_sub_right]
  exact one_le_two
}
```
(some steps could be improved with further `norm_num`/`ring` suggestions)

**Comment by fpvandoorn** [comment]
> Something to note: The `apply`/`apply at`/`grw` discrimination trees currently are not restricted to theorems. (You should try to see what happens if you select the `Nat` in a free variable `n : Nat` in the goal. There are very very many things that can be 'applied at `n`'). If we filtered out defs using `wasOriginallyTheorem`, we could save a small amount of time. But I can imagine that it could be useful to have `apply` suggestions for non-Prop goals.

I think the current behavior is fine.

File: Mathlib/Tactic/ClickSuggestions/GRewrite.lean [hunk 9]
```diff
@@ -0,0 +1,217 @@
...
+deriving Inhabited
+
+instance : Ord GrwKey where
+  compare a b :=
+    (compare a.1 b.1).then <|
+    (compare a.2 b.2).then <|
+    (compare a.3 b.3).then <|
+    (compare a.4 b.4)
+
+/-- Whether the two suggestions are duplicates of eachother. -/
```
Comment (fpvandoorn) [inline Mathlib/Tactic/ClickSuggestions/GRewrite.lean]:
```suggestion
/-- Whether the two suggestions are duplicates of each other. -/
```

File: Mathlib/Tactic/ClickSuggestions/GRewrite.lean [hunk 10]
```diff
@@ -0,0 +1,217 @@
...
+structure GrwPos where
+  /-- The name of the relation. -/
+  relName : Name
+  /-- The expression of the relation. -/
+  relation : Expr
+  /-- `symm` is `none` if the given relations are symmetric.
+  `symm` is `true` when you can only rewrite from right to left. -/
+  symm? : Option Bool
+
+/-- Given the relation for grewriting at the give position, figure out all of the
```
Comment (fpvandoorn) [inline Mathlib/Tactic/ClickSuggestions/GRewrite.lean]:
```suggestion
/-- Given the relation for grewriting at the given position, figure out all of the
```

File: Mathlib/Tactic/ClickSuggestions/GRewrite.lean [hunk 11]
```diff
@@ -0,0 +1,217 @@
...
+
+/-- This function is passed to `MVarId.gcongr` as the main discharger.
+It doesn't try to prove the goal, but instead observes what the goal is,
+to help determine which lemmas could work with `grw`. -/
+private def dummyDischarger (ref : IO.Ref (Array GrwPos)) (hyp? : Bool) (fvar : Expr)
+    (goal : MVarId) : MetaM Bool := do
+  let relation ← instantiateMVars (← goal.getType)
+  let e@(mkApp2 relation lhs rhs) := relation | throw <| .error default "dummyError"
+  let .const relName _ := relation.getAppFn | throw <| .error default "dummyError"
+  if relName matches ``Eq | ``Iff then throw <| .error default "dummyError"
```
Comment (fpvandoorn) [inline Mathlib/Tactic/ClickSuggestions/GRewrite.lean]: If one of these three errors get raised, then you haven't set a `ref` yet. Shouldn't you raise any error *other* than `dummyError` so that `getGrwPos?` just returns `#[]`? Or is this intended, so that if the discharger gets called multiple times, you select the (last) one that set the ref? I don't quite understand the logic here, maybe you can add a bit of clarification that what you're doing here is right? (even if the ref is set 0 or 2+ times?)

**Review by fpvandoorn — COMMENTED** [review]
Reviewed the final files.

One final remark when testing (for a future PR):
some `rw`/`grw` lemmas don't have enough implicit arguments to fully specify their conclusion. Examples: `add_eq_zero_symm` or `add_pos_of_left` (and many more). Ideally, the syntax you suggest specifies all implicit arguments that occur in the target, e.g. `rw [add_eq_zero_symm (a := n) (b := M) ?_]`. Currently, `rw` might rewrite in a different position than I selected because the pattern is underspecified (and `grw` might fail because it applies in an invalid occurrence)
```lean
example {a b : ℕ} : a + 3 < b + 3 := by
  -- these tactics get suggested when clicking on `b + 3`
  -- rw [add_eq_zero_symm ?_] 
  -- grw [← add_pos_of_left ?_ 3]
```

**Comment by JovanGerb** [comment]
- I've modified the implementation of `kabstractFindsPositions` so that it only says `true` if the selected position is uniquely found by `kabstract`.
- I've fixed (1) & (2)
- I've implemented (4) (the check after a `rw`/`grw` whether `rfl` closes the goal). If it holds, or similarly if `apply`/`exact` closes the goal, at the top there is now a separate section of tactics that close the goal (9). I don't remove these suggestions from their original position, so they are now duplicated - is that reasonable?
- Fixed (10), such that where it would previously merge with the wrong tactic, it will not not merge at all. While it would be better to merge with the right tactic, this at least puts the rewrite in the right place.
- I installed neovim on my computer, so I can now test how the widget works over there. We have a few people using neovim for Lean, so I think it would be nice to support this widget there. In particular, the funny insert button does not show up there. So, I've changed it back to showing the text `[apply]` on the button for each suggestion, mirroring what `apply?` does.

The rest I haven't fixed for now:
- (3) when selecting the whole goal, or a whole hypothesis, we could try running `symm` before searching, which would give more suggestions. I'll leave this as a TODO.
- (5) Yes, I think there is no better alternative.
- (6) I could add the types of the (non-dependent) variables after the expression, which may help. Something like "`a + b` where `(a : α) (b : α)`", and "`a + b` where `(a : ℕ) (b : ℕ)`". I'm not quite sure if that will be more useful or more noise.
- (7) Aha, you mean that we would first check to see which other selected subexpressions are the same. That would make sense, but I'll leave that as a TODO.
- (8) Yeah, I'm not sure what to do about this. I posted on Zulip about this during Lean together.
- (11) This would require more significant interaction with the infotree, which I'm not sure how to do. (And similarly for fixing (10) properly)

**Comment by JovanGerb** [comment]
I made 2 small changes:
- If the goal is solved, then instead of an `[apply]` button, there is a `[done]` button. I think this makes it visually clearer which suggestions are closing the goal.
- The pattern of each section is printed with metavariables instead of free variables, so that the variables start with `?`. This should help clarify the fact that these variables are not the same variables as the ones in the selected expression.

**Comment by JovanGerb** [comment]
Two usability issues that come up when interacting with `#click_suggestions` are now filed here:
- https://github.com/leanprover/vscode-lean4/issues/785
- https://github.com/leanprover-community/ProofWidgets4/issues/176

**Comment by fpvandoorn** [comment]
Thanks, this is great, and very useful!

bors merge

**Comment by JovanGerb** [comment]
Some final notes:
- It would be great to import this feature in `Mathlib.Tactic.Common`, but there is still an issue of minimizing imports to be figured out. For now you have to import `Mathlib.Tactic.ClickSuggestions`
- When the widget is active, but nothing is selected yet, I've added the message
  `Shift-click an expression in the tactic state to get suggestions.`
I didn't do this at first because it should be clear when you have written `#click_suggestions` that it is active. If it turns out to be more annoying than helpful, we can always remove it again.

bors r+

**Comment by JovanGerb** [comment]
bors retry
